US06114390
f) 2,3-Dihydro-5-[[[(1,1-dimethylethoxy)carbonyl]amino]-methyl]-2-(phenylmethyl)-1H-isoindole
Prepared analogously to Example 61b) from 2-(phenylmethyl)-2,3-dihydro-1H-isoindol-5-ylmethanamine and di-tert.butylpyrocarbonate in a yield of 34% of theory. The product was used in the following step without further purification.

reactant | 2-(phenylmethyl)-2,3-dihydro-1H-isoindol-5-ylmethanamine | C1(=CC=CC=C1)CN1CC2=CC=C(C=C2C1)CN | C16H18N2
reactant | di-tert.butylpyrocarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 2,3-Dihydro-5-[[[(1,1-dimethylethoxy)carbonyl]amino]-methyl]-2-(phenylmethyl)-1H-isoindole | yield of 34% | CC(C)(OC(=O)NCC=1C=C2CN(CC2=CC1)CC1=CC=CC=C1)C | C21H26N2O2
